US07605161B2
Synthesis of 3-phenyl-N-{6-[4-(2-trifluoromethylbenzoyl)piperazin-1-yl]pyridin-3-yl}propionamide
Hydrocinnamoyl chloride (0.037 mL, 0.25 mmol) in dichloromethane was added to a solution of [4-(5-aminopyridin-2-yl)piperazin-1-yl]-(2-trifluoromethylphenyl)methanone (0.070 g, 0.20 mmol) in dichloromethane (2 mL) and diisopropylethylamine (0.087 mL) at 0° C. The mixture was stirred at 25° C. for 16 h and then diluted with dichloromethane. The organic phase was washed with water and saturated NaCl solution, dried over anhydrous MgSO4. After removal of dichloromethane, the title compound was obtained in 7.6% yield (7.3 mg) after column purification. 1H NMR (300 MHz, CDCl3) δ 7.99, 7.80, 7.71, 7.56, 7.27, 6.91, 6.61, 3.91, 3.57, 3.43, 3.27, 3.04, 2.64. MS (ES+) m/z 483.0 (M+1).

reactant | Hydrocinnamoyl chloride | 0.25 mmol, 0.037 mL | C(CCC1=CC=CC=C1)(=O)Cl | C9H9ClO
reactant | [4-(5-aminopyridin-2-yl)piperazin-1-yl]-(2-trifluoromethylphenyl)methanone | 0.20 mmol, 0.070 g | NC=1C=CC(=NC1)N1CCN(CC1)C(=O)C1=C(C=CC=C1)C(F)(F)F | C17H17F3N4O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | diisopropylethylamine | 0.087 mL | C(C)(C)N(CC)C(C)C | C8H19N
product | 3-phenyl-N-{6-[4-(2-trifluoromethylbenzoyl)piperazin-1-yl]pyridin-3-yl}propionamide | 7.6% yield | C1(=CC=CC=C1)CCC(=O)NC=1C=NC(=CC1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C26H25F3N4O2
